US04920130
A mixture of 4-chlorobutyronitrile, (0.05 mol) sodium azide (0.20 mol) and anhydrous aluminum chloride (0.05 mol) in 100 ml of dry tetrahydrofuran is refluxed for 24 hours. After cooling to ambient temperature the reaction is acidified with 75 ml of 15% hydrochloric acid while the hydrazoic acid generated is removed by means of an aspirator. The organic and aqueous layers are then separated and the aqueous layer extracted with ethylacetate. The combined organic extracts are dried (magnesium sulfate) and evaporated to give 5-(3-chloropropyl)tetrazole which is used directly in the next step.

reactant | 4-chlorobutyronitrile | 0.05 mol | ClCCCC#N | C4H6ClN
reactant | sodium azide | 0.20 mol | [N-]=[N+]=[N-].[Na+]
reactant | aluminum chloride | 0.05 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 75 ml | Cl | ClH
reactant | hydrazoic acid | N=[N+]=[N-] | HN3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-(3-chloropropyl)tetrazole | ClCCCC1=NN=NN1 | C4H7ClN4
